US07781428B2
2-[4-cyano-3-(trifluoromethyl)phenyl]-3-cyclopentyl-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylic acid
The title compound was prepared from methyl 3-(cyclopentylmethylene)-4-oxochroman-7-carboxylate (Preparation 31; 286 mg, 1.0 mmol) and 4-hydrazinyl-2-(trifluoromethyl)benzonitrile hydrochloride (Preparation 3; 298 mg, 1.3 mmol) according to Method B and Method C. The title compound was largely present as a mixture of cis and trans diastereomers:

reactant | methyl 3-(cyclopentylmethylene)-4-oxochroman-7-carboxylate | 1.0 mmol, 286 mg | C1(CCCC1)C=C1COC2=CC(=CC=C2C1=O)C(=O)OC | C17H18O4
reactant | 4-hydrazinyl-2-(trifluoromethyl)benzonitrile hydrochloride | 1.3 mmol, 298 mg | Cl.N(N)C1=CC(=C(C#N)C=C1)C(F)(F)F
product | 2-[4-cyano-3-(trifluoromethyl)phenyl]-3-cyclopentyl-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylic acid | C(#N)C1=C(C=C(C=C1)N1N=C2C(C1C1CCCC1)COC=1C=C(C=CC12)C(=O)O)C(F)(F)F | C24H20F3N3O3
